US06384030B1
A mixture of (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one (0.05 mol) and (−)-(S)-α-methyl-benzenemethanamine (0.1 mol) in THF (500 ml) was hydrogenated at 50° C. for 48 hours with Pd/C 10% (3 g) as a catalyst in the presence of titanium(VI) n-butoxide (28.4 g) and thiophene solution (3 ml). The catalyst was filtered off. Pd/C 10% (10 g) and thiophene solution (10 ml) were added again. Hydrogenation was continued at 50° C. for 48 hours. After uptake of H2, the catalyst was filtered off and the filtrate was evaporated. The residue was stirred in CH2Cl2, CH3OH and H2O. The mixture was alkalized with NaOH and filtered over dicalite. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was triturated in DIPE, filtered off and dried, yielding 19 g (74%) of [(R*,R*)(S)+(R*,S*)(S)]-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-[(1-phenylethyl)amino)-1-methylpropyl]-3H-1,2,4-triazol-3-one (interm. 2).

reactant | (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one | 0.05 mol | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)=O)C)=O | C22H25N5O3
reactant | (−)-(S)-α-methyl-benzenemethanamine | 0.1 mol | C[C@H](N)C1=CC=CC=C1 | C8H11N
reactant | thiophene | 3 ml | S1C=CC=C1 | C4H4S
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-[(1-phenylethyl)amino)-1-methylpropyl]-3H-1,2,4-triazol-3-one | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)NC(C)C1=CC=CC=C1)C)=O | C30H36N6O2
